Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
concern for meningitis
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ old right-handed man with a past medical
history of hydrocephalus s/p EVD at ___ in ___ who presents
with two days of headache, fever and back pain and s/p episode 
of
syncope with unclear LOC. 

Patient reports on ___ evening, he noted lower back pain and
fairly acute onset headache prior to going to bed. The headache
is bitemporal, throbbing and has been present since then. There
is no positional component and he does not note that the 
mornings
are worse than any other time of day. There is no associated
nausea, vomiting or photophobia, but he does have some
phonophobia. On ___ morning, he stayed home from work
because he was still not feeling well. While in bed, he had
chills and then drenching sweats. He took his temperature and 
was
up to 102. The back pain, fevers, and headache persisted until
___, when he took a shower around noon. At that time, he
had a syncopal event in the shower and woke up on the bottom of
the tub. He had no recollection of how he got there and does not
remember experiencing any prodromal symptoms. Given his loss of
consciousness, he presented to ___, where a head CT was
done. This showed severe hydrocephalus and without prior for
comparison, he was sent to ___ for further treatment.  

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies cough, shortness of
breath.  Denies chest pain or tightness, palpitations.  Denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
Hydrocephalus s/p EVD placement (right frontal), complicated by
chemical meningitis and one generalized tonic-clonic seizure two
weeks afterwards, no further seizure history
ADHD
 
Social History:
___
Family History:
No history of headaches, no history of hydrocephalus. 

 
Physical Exam:
Physical Exam:
General: sitting upright in bed, in no acute distress
HEENT: skull defect over right frontoparietal lobe, no lesions 
noted in oropharynx
Neck: Supple. No nuchal rigidity.
with flexion/extension movement
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, able to name ___ 
backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name both high and low 
frequency objects. Speech was not dysarthric. Able to follow 
both midline and appendicular commands. Pt was able to register 
3 objects and recall ___ at 5 minutes.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI without 
nystagmus. Difficulty visualizing the discs bilaterally. 
V: Facial sensation intact to light touch.
VII: Baseline facial asymmetry is chronic secondary to facial 
trauma, no NLFF or droop, symmetric activation. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis
noted.
  Delt Bic Tri WrE  FE IP Quad Ham TA Gastroc  
L  5    ___    ___    5  5     5       
R  5    ___    ___    5  5     5        

-Sensory: No deficits to light touch, pinprick. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
ADMISSION LABS

___ 03:48AM BLOOD WBC-3.2* RBC-4.82 Hgb-14.5 Hct-42.1 
MCV-87 MCH-30.1 MCHC-34.4 RDW-12.6 RDWSD-39.9 Plt Ct-96*
___ 03:48AM BLOOD Neuts-61 Bands-7* ___ Monos-8 Eos-0 
Baso-0 Atyps-4* Metas-1* Myelos-0 AbsNeut-2.18 AbsLymp-0.74* 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.00*
___ 03:48AM BLOOD Glucose-104* UreaN-12 Creat-0.9 Na-136 
K-4.0 Cl-100 HCO3-27 AnGap-13
___ 03:25PM BLOOD Calcium-9.2 Phos-3.1 Mg-2.1
___ 03:48AM BLOOD cTropnT-<0.01
___ 03:25PM BLOOD cTropnT-<0.01

**************
DISCHARGE LABS

___ 07:05AM BLOOD WBC-5.1 RBC-4.43* Hgb-13.5* Hct-39.2* 
MCV-89 MCH-30.5 MCHC-34.4 RDW-12.7 RDWSD-41.0 Plt ___
___ 07:05AM BLOOD Glucose-84 UreaN-10 Creat-0.9 Na-141 
K-4.0 Cl-101 HCO3-28 AnGap-16

**************
IMAGING

MRI head ___
IMPRESSION:   
1. Ventriculomegaly involving the lateral and third ventricles 
with narrowing of the cerebral aqueduct with no CSF flow through 
the aqueduct compatible with aqueductal stenosis with 
obstructive hydrocephalus. 
2. Burr hole in the right frontal lobe with a small amount of 
associated 
encephalomalacia likely related to prior intervention. 
ADDENDUM  The degree of ventriculomegaly is relatively unchanged 
in comparison to outside MRI from ___. 

CXR ___
IMPRESSION:  
In comparison with the study ___, this and placement of 
right 
subclavian PICC line that extends to the lower portion of the 
SVC. 
Otherwise, little change and no evidence of acute pneumonia, 
vascular 
congestion, or pleural effusion. 

 
Brief Hospital Course:
Patient admitted for fever, headache, and loss of consciousness 
of unclear etiology. For his fever and headache, he was started 
on empiric treatment for bacterial meningitis. Neurosurgery was 
consulted who felt that given his history of congenital 
aqueductal stenosis and ventriculomegaphy, it was NOT safe to 
perform lumbar puncture. His headache appeared to improve with 
antibiotics, therefore the safest plan of action was felt to 
continue him on a course for meningitis, despite higher 
likelihood of a viral process. Flu swab was negative and per ID 
recommendations, he was discharged home with a 2 week course of 
IV ceftriaxone for empiric therapy.

His episode of loss of consciousness was evaluated with EKG, 
telemetry, and cardiac enzymes, which were negative. He had no 
orthostatic changes to vital signs. It was felt that this may 
have possibly reflected symptomatic congenital aqueductal 
stenosis. Neurosurgery was consulted to potential perform 
ventriculostomy however felt that this was not urgently 
indicated. He was discharged home with instructions for 
Neurosurgery follow up.

Transitional issues:
[ ] Ceftriaxone ordered for 2 week course of infusion to treat 
for empiric bacterial meningitis.
[ ] Please follow up CBC, CMP which will be ordered on last day 
of 2-week ceftriaxone infusion.
[ ] To be followed up in ___ clinic to discuss therapy 
for congenital aqueductal stenosis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Concerta (methylphenidate) 36 mg oral DAILY 

 
Discharge Medications:
1. CeftriaXONE 2 g IV Q12H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 grams IV every 
12 hours Disp #*28 Intravenous Bag Refills:*0
2. Concerta (methylphenidate) 36 mg oral DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope, concern for symptomatic congenital aqueductal stenosis
Fever and headache, presumed bacterial meningitis
Ventriculomegaly secondary to congenital aqueductal stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for fever, headache, and loss 
of consciousness. We treated you for a bacterial meningitis; 
since we are unable to sample some of your cerebrospinal fluid 
(CSF) to rule this out, we will continue to treat you for a 2 
week course of IV ceftriaxone.

As for your episode of loss of consciousness, we are concerned 
that this may be a symptoms of your congenital aqueductal 
stenosis, as our MRI imaging showed that there remains 
obstruction there. Our neurosurgery team did not feel that you 
require urgent surgery. You may follow up with Neurosurgery to 
continue to discuss this.

You will be arranged a visiting home nurse who can also assess 
the need for further home services such as home physical 
therapy, occupational therapy, etc.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team

 
Followup Instructions:
___